reaction_geognn/datasets/wb97xd3/splits/fold_0/aam_train.csv
AAM,ea
[H:8][H:11].[O:1]=[C:2]([C@:3]([C:4]#[C:5][H:12])([C:6]#[N:7])[H:9])[H:10]>>[O:1]([C:2]([C@@:3]([C:4]#[C:5][H:12])([C:6]#[N:7])[H:11])([H:9])[H:10])[H:8],77.59110593980101
[O:1]=[C:2]([C:3]#[C:4][C:5](=[O:6])[H:8])[H:7]>>[O:1]=[C:2]([C:3](=[C:4])[C:5](=[O:6])[H:8])[H:7],49.5859048726771
[C:1]([C:2]([C:3]([N:4]([H:13])[H:14])=[C:5]=[N:6][H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C@@:3]([N:4]([H:13])[H:14])([C:5]#[N:6])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9],61.72224076902629
[C:1]([C:2](=[C:3]=[O:4])[H:8])([H:5])([H:6])[H:7].[H:9][H:10]>>[C:1]([C:2]([C:3](=[O:4])[H:10])([H:8])[H:9])([H:5])([H:6])[H:7],47.3330254693982
[C:1]([C:2]([N:3]([C:4]([H:12])([H:13])[H:14])[C:5](=[O:6])[H:15])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1](/[C:2](=[N:3]/[C:5](=[O:6])[H:15])[H:11])([H:7])([H:8])[H:9].[C:4]([H:10])([H:12])([H:13])[H:14],110.522248798541
[C:1]([C@@:2]([C:3](=[O:4])[H:11])([C:5]#[C:6][H:12])[H:10])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3](=[O:4])[H:11])=[C:5]=[C:6]([H:10])[H:12])([H:7])([H:8])[H:9],68.04337080326329
[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([C@@:4]([C:5]([H:16])([H:17])[H:18])([C:6]#[N:7])[H:15])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([C@@:4]1([H:15])[C:5]([H:16])([H:17])/[C:6]1=[N:7]\[H:18])[H:11])([H:8])([H:9])[H:10],107.909285037722
[C:1]([C:2]([C:3]([C:4]([H:12])([H:13])[H:14])([C:5]([H:15])([H:16])[H:17])[O:6][H:18])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([O:6][H:18])([H:10])[H:11])([H:7])([H:8])[H:9].[C:3]([C:4]([H:12])([H:13])[H:14])[C:5]([H:15])([H:16])[H:17],122.067688232448
[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([C:4]([C@@:5]([C:6]([H:18])([H:19])[H:20])([O:7][H:21])[H:17])([H:15])[H:16])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([C:4]([C:5](=[O:7])[H:17])([H:15])[H:16])[H:11])([H:8])([H:9])[H:10].[C:6]([H:18])([H:19])([H:20])[H:21],83.0220873811476
[C:1]([O:2][C:3]([C:4]([C:5](=[O:6])[H:14])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([O:2][C:3]([C:4]([C:5][O:6][H:14])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9],79.9198522710506
[C:1]([C:2]#[C:3][C:4](=[O:5])[C:6]#[C:7][H:11])([H:8])([H:9])[H:10]>>[C:1]([C:2](=[C:3])[C:4](=[O:5])[C:6]#[C:7][H:11])([H:8])([H:9])[H:10],53.9073617691218
[N:1](=[C:2]=[C:7]([C:6](=[O:5])[H:9])[H:10])[H:8].[N:3]#[N:4]>>[N:1]([C:2]#[C:7][H:10])(/[N:4]=[N:3]\[C:6](=[O:5])[H:9])[H:8],107.526156814022
[O:1]=[C:2]([C:3]#[C:4][C:5]#[N:6])[H:7]>>[O:1]=[C:2]([C:3](=[C-:4])[N+:6]#[C:5])[H:7],91.9378701727942
[O:1]([C:2]([C:3]([C-:4]=[C:5]=[C+:6][H:12])([H:9])[H:10])([H:8])[H:11])[H:7]>>[O:1]([C@@:2]1([H:8])[C:3]([H:9])([H:10])[C@:4]1([C:5]#[C:6][H:12])[H:11])[H:7],11.849674591351196
[C:1]([C:2]([C:3]([N:4]([C:5](=[O:6])[H:15])[H:14])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C@:2]1([H:11])[C:3]([H:12])([H:13])[N:4]([H:14])[C@:5]1([O:6][H:10])[H:15])([H:7])([H:8])[H:9],97.5340484584173
[C:1]([C:2]([C:3]#[C:4][C:5]#[C:6][H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2](=[C:3]=[C:4]=[C:5]=[C:6]([H:11])[H:12])[H:10])([H:7])([H:8])[H:9],80.0689813680967
[C:1]([C:2]([C:3]([C:4]([O-:5])=[C+:6][H:13])([H:11])[H:12])([H:10])[H:14])([H:7])([H:8])[H:9]>>[C:1]([C:2]1([H:10])[C:3]([H:11])([H:12])[C:4](=[O:5])[C:6]1([H:13])[H:14])([H:7])([H:8])[H:9],4.527787482715212
[O:1]1[C@@:2]([C:6]#[C:7][H:14])([H:8])[N:3]([H:9])[C:4]([H:10])([H:11])[C:5]1([H:12])[H:13]>>[O:1]=[C:2]([N:3]([C:4]([C:5]([C:6]#[C:7][H:14])([H:12])[H:13])([H:10])[H:11])[H:9])[H:8],95.98979123635552
[C:1]([C:2](=[O:3])[N:4]([H:8])[H:9])([H:5])([H:6])[H:7]>>[C:1](=[C:2]([O:3][H:6])[N:4]([H:8])[H:9])([H:5])[H:7],63.9770154854043
[C:1]([C:2]([C@@:3]([C:4]([H:14])([H:15])[H:16])([N:5]([C:6](=[O:7])[H:18])[H:17])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C@@:3]([C:4]([H:14])([H:15])[H:16])(/[N:5]=[C:6](/[O:7][H:17])[H:18])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],44.7349544249338
[C:1]([O:2][C:3]([C:4](=[O:5])[N:6]([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([O:2][C:3](/[C:4]([O:5][H:12])=[N:6]\[H:13])([H:10])[H:11])([H:7])([H:8])[H:9],45.407488186166496
[N:1]([C:2](=[O:3])[C:4]([O:5]/[C:6](=[N:7]/[H:13])[H:12])([H:10])[H:11])([H:8])[H:9]>>[N:1]([C+:2]([C:4]([O:5][C:6](=[O:3])[H:12])([H:10])[H:11])[N-:7][H:13])([H:8])[H:9],51.5113534724221
[C:1]([C@@:2]([C:3]([O:4][H:13])([H:11])[H:12])([C:5]#[C:6][H:14])[H:10])([H:7])([H:8])[H:9]>>[C:1]([C@@:2]([C:3]([O:4][H:13])([H:11])[H:12])([C:6](=[C:5])[H:14])[H:10])([H:7])([H:8])[H:9],61.323039980748604
[C:1]([C:2]1=[C:4]([H:14])[C:5]([H:15])([H:16])[C:6]1([H:17])[H:18])([H:7])([H:8])[H:9].[C:3]([H:10])([H:11])([H:12])[H:13]>>[C:1]([C:2]1([C:3]([H:10])([H:11])[H:12])[C:4]([H:13])([H:14])[C:5]([H:15])([H:16])[C:6]1([H:17])[H:18])([H:7])([H:8])[H:9],94.2873994747812
[C:1]([C:2]([O:3][C:4]([H:12])([H:13])[H:15])([H:10])[H:11])([H:7])([H:8])[H:9].[C:5]([O:6][H:16])[H:14]>>[C:1]([C:2]([O:3][C:4]([C:5]([O:6][H:16])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9],21.89803399356221
